US06890935B2
3-Bromo-5-(4-methoxyphenoxy)pyridine
Under an argon atmosphere, a solution of 4-methoxyphenol (15.7 g, 0.126 mol) in dimethylformamide (50 mL) was added slowly to a stirred suspension sodium hydride (3.6 g of a 80% suspension in mineral oil, 0.125 mol) in dimethylformamide (100 mL) at 3-7° C. The ice-bath was removed and the resulting mixture was stirred for 2 h at room temperature. A solution of 3,5-dibromopyridine (20 g, 0.083 mol) in dimethylformamide (120 mL) was added to the mixture, which was then heated to 100° C. for 36 h, then cooled to room temperature and poured into a mixture of water (500 mL) and ethyl acetate (500 mL). The aqueous phase was separated and extracted with ethyl acetate (2×100 mL). The combined organic phases were washed with water (3×100 mL) and then brine (100 mL), then dried (MgSO4), filtered and concentrated by rotary evaporation to give 22.5 g of an orange oil, which was purified by column chromatography, with cyclohexane/ethyl acetate (95/5, v/v) as eluant. Selected fractions containing the product were concentrated via rotary evaporation to give 18.8 g (81%) of a colorless oil.

reactant | 4-methoxyphenol | 0.126 mol, 15.7 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 3,5-dibromopyridine | 0.083 mol, 20 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | water | 500 mL | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-5-(4-methoxyphenoxy)pyridine | 22.5 g | BrC=1C=NC=C(C1)OC1=CC=C(C=C1)OC | C12H10BrNO2
